US04695575
A mixture of 11.3 parts of N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine, 3.75 parts of carbon disulfide and 117 parts of N,N-dimethylformamide was stirred overnight at room temperature. The reaction mixture was poured into water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 5 parts (40%) of 9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-9H-purine-8-thiol; mp. 163.7° C. (495).

reactant | N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCNC2=NC=NC=C2N | C26H30FN7
reactant | carbon disulfide | C(=S)=S | CS2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-9H-purine-8-thiol | 40% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN2C1=NC=NC=C1N=C2S | C27H28FN7S
